US04695569
To a stirred mixture of 4 parts of 2-(ethylamino)-N-[2-[4-[[1-[(4-fluorophenyl)methyl]-1H-benzimidazol-2-yl]amino]-1-piperidinyl]ethyl]benzamide, 1.06 parts of sodium carbonate and 65 parts of dichloromethane was added dropwise a solution of 2 parts of methyl carbonochloridate in dichloromethane. Upon completion, stirring was continued overnight at reflux temperature. Water was added and the product was extracted with dichloromethane. The extract was dried, filtered and evaporated. The residue was purified by column chromatography over silica gel using a mixture of trichloromethane and methanol (90:10 by volume) as eluent. The pure fractions were collected and the eluent was evaporated. The residue was converted into the hydrochloride salt in acetonitrile and 2-propanol. The salt was filtered off and dried, yielding 1.8 parts of 1-ethyl-3-[2-[4-[1-[(4-fluorophenyl)methyl]-1H-benzimidazol-2-yl]amino]-1-piperidinyl]ethyl]-2,4(1H,3H)-quinazolinedione dihydrochloride; mp. +260° C. (compound 125).

reactant | 2-(ethylamino)-N-[2-[4-[[1-[(4-fluorophenyl)methyl]-1H-benzimidazol-2-yl]amino]-1-piperidinyl]ethyl]benzamide | C(C)NC1=C(C(=O)NCCN2CCC(CC2)NC2=NC3=C(N2CC2=CC=C(C=C2)F)C=CC=C3)C=CC=C1 | C30H35FN6O
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | methyl carbonochloridate | C(OC)(=O)Cl | C2H3ClO2
reactant | Water | O | H2O
solvent | dichloromethane | ClCCl | CH2Cl2
product | 2,4(1H,3H)-quinazolinedione dihydrochloride | Cl.Cl.N1C(NC(C2=CC=CC=C12)=O)=O | InChI=1S/C8H6N2O2.2ClH/c11-7-5-3-1-2-4-6(5)9-8(12)10-7;;/h1-4H,(H2,9,10,11,12);2*1H
